US07253318B2
Under an argon atmosphere and at room temperature, a suspension of 1.0 g of 2-[4-(3-fluoro-benzyloxy)-phenyl]-ethanol and 0.66 g of potassium isocyanate in 2 ml of benzene was treated dropwise under stirring with 0.62 ml of trifluoroacetic acid. After stirring for 18 h at room temperature, the reaction mixture was diluted with water, then extracted three times with dichloromethane. The combined organic layers were dried over potassium carbonate and evaporated. There were obtained 0.52 g (44% of theory) of carbamic acid 2-[4-(3-fluoro-benzyloxy)-phenyl]-ethyl ester as a white solid; MS: m/e=290 (M+H)+.

reactant | 2-[4-(3-fluoro-benzyloxy)-phenyl]-ethanol | 1.0 g | FC=1C=C(COC2=CC=C(C=C2)CCO)C=CC1 | C15H15FO2
reactant | potassium isocyanate | 0.66 g | [N-]=C=O.[K+]
reactant | trifluoroacetic acid | 0.62 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | carbamic acid 2-[4-(3-fluoro-benzyloxy)-phenyl]-ethyl ester | 0.52 g, 44% | FC=1C=C(COC2=CC=C(C=C2)CCOC(N)=O)C=CC1 | C16H16FNO3
